US07816542B2
A Smith Process Vial charged with 4-bromo-2-nitroaniline (205 mg, 0.945 mmol), 4-butyl phenyl boronic acid (336 mg, 1.89 mmol), cesium fluoride (430 mg, 2.83 mmol), bis(tri-t-butyl-phosphine)-palladium (24.1 mg, 0.0472 mmol), and dioxane (2 ml) is purged with Argon (g) for 5 minutes and then heated in a microwave to 120° C. for 15 minutes. The crude reaction is filtered through Celite using EtOAc as eluent. The filtrate is concentrated in vacuo and the crude product is purified with silica gel flash column chromatography (0-100% ethyl acetate in hexanes gradient) to afford 4′-butyl-3-nitro-biphenyl-4-ylamine: ESMS m/z 271.2 (M+H+).

reactant | 4-bromo-2-nitroaniline | 0.945 mmol, 205 mg | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | 4-butyl phenyl boronic acid | 1.89 mmol, 336 mg | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | cesium fluoride | 2.83 mmol, 430 mg | [F-].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4′-butyl-3-nitro-biphenyl-4-ylamine | C(CCC)C1=CC=C(C=C1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C16H18N2O2
